US04539321
The Preparation of 3-Hydroxy-5-(4-Pyrimidinyl)-2-(1H)-Pyridone
A mixture of 5.0 g of 3-bromo-5-(4-pyrimidinyl)-2-(1H)-pyridone, 6.0 g of sodium methoxide and 100 ml of methanol is autoclaved at 200° for twelve hours. The solvent is distilled off in vacuo and the residue treated with water. The aqueous mixture is neutralized with acetic acid and the resulting solid collected, washed with water and dried. Recrystallization from dimethylformamide with a hot filtration yields the desired product.

reactant | 3-bromo-5-(4-pyrimidinyl)-2-(1H)-pyridone | 5.0 g | BrC=1C(NC=C(C1)C1=NC=NC=C1)=O | C9H6BrN3O
reactant | sodium methoxide | 6.0 g | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 3-Hydroxy-5-(4-Pyrimidinyl)-2-(1H)-Pyridone | OC=1C(NC=C(C1)C1=NC=NC=C1)=O | C9H7N3O2
